US07144908B2
i) Benzyl (2S,4R)-4-(3-iodobenzyl)-4-methyl-5-oxo-2-phenyl-1,3-oxazolidine-3-carboxylate
A solution of benzyl (2S,4S)-4-methyl-5-oxo-2-phenyl-1,3-oxazolidine-3-carboxylate (J. Org. Chem. 2001, 66, 1903) (1.2 g) and 3-iodobenzyl bromide (1.15 g) in THF (8 ml) was added dropwise to a solution of lithium hexamethyldisilazane in THF (1M, 4.1 ml) diluted in THF (32 ml) at −30° C. The mixture was stirred at this temperature and then allowed to warm to 20° C. over 4 h. Aqueous sodium bicarbonate solution was then added and the mixture was extracted with Et2O. The organic phase was separated and dried (MgSO4), filtered and evaporated. The residue was purified by chromatography on a Biotage cartridge (40 g) eluting with EtOAc-petroleum ether (1:9, 1:4) to give the title compound (1.48 g) HPLC RT=9.33 min.

reactant | benzyl (2S,4S)-4-methyl-5-oxo-2-phenyl-1,3-oxazolidine-3-carboxylate | 1.2 g | C[C@@H]1N([C@@H](OC1=O)C1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C18H17NO4
reactant | 3-iodobenzyl bromide | 1.15 g | IC=1C=C(CBr)C=CC1 | C7H6BrI
reactant | lithium hexamethyldisilazane | C[Si](N[Si](C)(C)C)(C)C.[Li]
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | THF | 8 ml | C1CCOC1 | C4H8O
solvent | THF | 1M, 4.1 ml | C1CCOC1 | C4H8O
solvent | THF | 32 ml | C1CCOC1 | C4H8O
product | Benzyl (2S,4R)-4-(3-iodobenzyl)-4-methyl-5-oxo-2-phenyl-1,3-oxazolidine-3-carboxylate | 1.48 g | IC=1C=C(C[C@]2(N([C@@H](OC2=O)C2=CC=CC=C2)C(=O)OCC2=CC=CC=C2)C)C=CC1 | C25H22INO4
